US06613786B2
(2,5-Dichlorothiophen-3-yl)-oxo-acetic acid ethyl ester (4.51 g, 17.8 mmol) was stirred in a mixture of 100 ml water and 10 N NaOH (10 ml, 100 mmol) at room temperature for 20 hours. The reaction mixture was then acidified with 3N HCl, and extracted with ethyl acetate (3×50 ml). The combined ethyl acetate extracts were dried over Na2SO4 and concentrated under vacuum to provide (2,5-dichlorothiophen-3-yl)-oxo-acetic acid (3.90 g, 97%). MS (M−H)−: 223.02; 1H NMR (300 MHz, DMSO-d6) δ7.54 (s).

reactant | (2,5-Dichlorothiophen-3-yl)-oxo-acetic acid ethyl ester | 17.8 mmol, 4.51 g | C(C)OC(C(=O)C1=C(SC(=C1)Cl)Cl)=O | C8H6Cl2O3S
reactant | NaOH | 100 mmol, 10 N, 10 ml | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | (2,5-dichlorothiophen-3-yl)-oxo-acetic acid | 3.90 g, 97% | ClC=1SC(=CC1C(C(=O)O)=O)Cl | C6H2Cl2O3S
